US06953790B2
Step C. 7-Piperidin-4-yl-7,9-dihydro-8H-purin-8-one hydrochloride
A mixture of 7-(1-benzylpiperidin-4-yl)-7,9-dihydro-8H-purin-8-one (1.2 g, 3.7 mmol) in 4N hydrogen chloride in dioxane (50 mL), was stirred vigorously at room temperature for 3 h. The reaction was concentrated in vacuo to give the title compound as a white solid. MS 220 (M+1).

reactant | 7-(1-benzylpiperidin-4-yl)-7,9-dihydro-8H-purin-8-one | 3.7 mmol, 1.2 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=NC=NC=C12)=O | C17H19N5O
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 7-Piperidin-4-yl-7,9-dihydro-8H-purin-8-one hydrochloride | Cl.N1CCC(CC1)N1C(NC2=NC=NC=C12)=O | InChI=1S/C10H13N5O.ClH/c16-10-14-9-8(5-12-6-13-9)15(10)7-1-3-11-4-2-7;/h5-7,11H,1-4H2,(H,12,13,14,16);1H
